US05929067
4-[N'-Methyl-N'-(3,5-bistrifluoromethyl-benzoyl)-amino]-5-(4-chlorophenyl)-pentanoic acid N-(2-methoxy-benzyl)-amide
This is the compound of Example 3. It can be prepared also by the following synthesis method: a mixture of 0.495 g of 4-[N'-methyl-N'-(3,5-bistrifluoromethyl-benzoyl)-amino]-5-(4-chlorophenyl)-pentanoic acid, 0.137 g of 2-methoxy-benzylamine, 0.21 g of N-ethyl-N'-(3-dimethylaminopropyl)-carbodiimide hydrochloride, 0.134 g of 4-dimethylaminopyridine and 10 ml of methylene chloride is stirred at room temperature for 16 hours and then concentrated by evaporation. The residue is chromatographed (silica gel, hexane/ethyl acetate 1:1). In this way the title compound is obtained in the form of a colourless amorphous solid. 1H-NMR, 400 MHz, DMSO, 150°, delta (ppm): 7.95(s, 1H), 7.50(s, 2H), 7.43(s, 1H), 7.3-7.1(m, 6H), 6.95(d, 1H), 4.23(d,2H), 3.80(s, 3H), 2.9-2.7(m, 5H), 2.25(m, 2H), 1.92(m, 2H).

reactant | 4-[N'-methyl-N'-(3,5-bistrifluoromethyl-benzoyl)-amino]-5-(4-chlorophenyl)-pentanoic acid | 0.495 g | CN(C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C(CCC(=O)O)CC1=CC=C(C=C1)Cl | C21H18ClF6NO3
reactant | 2-methoxy-benzylamine | 0.137 g | COC1=C(CN)C=CC=C1 | C8H11NO
reactant | N-ethyl-N'-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 0.21 g | Cl.C(C)N=C=NCCCN(C)C
catalyst | 4-dimethylaminopyridine | 0.134 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-[N'-Methyl-N'-(3,5-bistrifluoromethyl-benzoyl)-amino]-5-(4-chlorophenyl)-pentanoic acid N-(2-methoxy-benzyl)-amide | COC1=C(CNC(CCC(CC2=CC=C(C=C2)Cl)N(C(C2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)=O)C)=O)C=CC=C1 | C29H27ClF6N2O3
